US04594094
Tetrahydro-5-ethyl-2-methyl-5-[(2-chlorophenylmethoxy)methyl]-2-furanthiocarboxamide (Trans-Isomer)
Excess hydrogen sulfide was condensed into a stainless steel bomb containing 2.94 g of the chromatographically purified trans-nitrile, tetrahydro-2-methyl-5-ethyl-5-[(2-chlorophenylmethoxy)methyl]-2-furancarbonitrile, (ca>9:1 trans-cis by proton NMR), 10 ml ethanol, and 0.15 g triethanolamine catalyst. The sealed bomb was kept at 55±3° C. for 6 hours during which time the internal pressure rose to 350 psi. After cooling, the reaction mixture was concentrated on a rotary evaporator. The residue was purified by dry column chromatography on silica gel using 96.4 hexane:tetrahydrofuran as eluent. The white cyrstalline desired product weighed 1.10 g, mp 78°-80° C.

reactant | hydrogen sulfide | S | H2S
reactant | tetrahydro-2-methyl-5-ethyl-5-[(2-chlorophenylmethoxy)methyl]-2-furancarbonitrile | 10 ml | CC1(OC(CC1)(COCC1=C(C=CC=C1)Cl)CC)C#N | C16H20ClNO2
catalyst | triethanolamine | 0.15 g | N(CCO)(CCO)CCO | C6H15NO3
solvent | ethanol | C(C)O | C2H6O
product | Tetrahydro-5-ethyl-2-methyl-5-[(2-chlorophenylmethoxy)methyl]-2-furanthiocarboxamide | C(C)C1(CCC(O1)(C(N)=S)C)COCC1=C(C=CC=C1)Cl | C16H22ClNO2S
